US06521666B1
A solution of DMF (0.1 mL) in CH2Cl2 (2 mL) was added dropwise with stirring to a solution of oxalyl chloride (0.2 mL) in CH2Cl2 (16 mL) at −30° C. under N2. The mixture was stirred for 15 min and a solution of 2-chloro-4-(1-pyrrolyl)benzoic acid methyl ester (0.5 g) in DMF (4 mL) was added. The mixture was stirred at that temperature for 3 h and allowed to warm to room temperature. The mixture was stirred overnight and evaporated. The residue was partitioned between EtOAc and 0.2 M NaOAc. The EtOAc layer was separated and the aqueous solution was extracted with EtOAc. The combined EtOAc layer was washed with brine, dried (MgSO4), filtered and evaporated. The residue was purified by column chromatography (silica gel; eluent: hexane/EtOAc 3/1) to yield 2-chloro-4-(2-formyl-1-pyrrolyl)benzoic acid methyl ester (0.41 g). ESMS: 264 (MH+).

reactant | oxalyl chloride | 0.2 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-chloro-4-(1-pyrrolyl)benzoic acid methyl ester | 0.5 g | COC(C1=C(C=C(C=C1)N1C=CC=C1)Cl)=O | C12H10ClNO2
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 16 mL | C(Cl)Cl | CH2Cl2
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | DMF | 0.1 mL | CN(C)C=O | C3H7NO
product | 2-chloro-4-(2-formyl-1-pyrrolyl)benzoic acid methyl ester | 0.41 g | COC(C1=C(C=C(C=C1)N1C(=CC=C1)C=O)Cl)=O | C13H10ClNO3
